US07790714B2
(S)-3-(4′-Chloro-biphenyl-4-yl)-2-{[(3S,7S)-3-(4-hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-propionic acid methyl ester (68 mg, 0.091 mmol) was dissolved in 2 mL of DMF and 3,4-dichlorobenzyl bromide (0.46 mmol) and potassium carbonate (0.46 mmol) were added. The mixture was stirred at room temperature for 8 hours and was poured onto ethyl acetate and 10% sodium carbonate. The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was purified over silica (hexanes-ethyl acetate-MeOH, 7-3-0.1) to provide (S)-3-(4′-Chloro-biphenyl-4-yl)-2-{[(3S,7S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-propionic acid methyl ester (17 mg, LC/MS: m/z 903).

reactant | (S)-3-(4′-Chloro-biphenyl-4-yl)-2-{[(3S,7S)-3-(4-hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-propionic acid methyl ester | 0.091 mmol, 68 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)NC(=O)[C@H]1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)O)[C@@H](CC)C1=CC=CC=C1)=O | C44H42ClN3O6
reactant | 3,4-dichlorobenzyl bromide | 0.46 mmol | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
reactant | potassium carbonate | 0.46 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-3-(4′-Chloro-biphenyl-4-yl)-2-{[(3S,7S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-propionic acid methyl ester | 17 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)NC(=O)[C@H]1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)[C@@H](CC)C1=CC=CC=C1)=O | C51H46Cl3N3O6
